US06319946B1
3-Ethyl-4-oxobutyl cyanide
A stirred solution of N-(1-buten-1-yl)piperidine [Mannich, D.; Ber. 1936, 69, 2106] (4.2 g, 29.9 mmol) and acrylonitrile (2.1 g, 38.8 mmol) in acetonitrile (25 mL) was heated at reflux for 18 hours. Acetic acid and water (10 mL, 1:1) was added and the reaction was heated an additional 4 hours. The acetonitrile was removed in vacuo and the residue was taken up in ether (60 mL). The ether was washed with water (2×40 mL), saturated sodium bicarbonate/water (40 mL), dried (magnesium sulfate), concentrated in vacuo and then distilled to afford the title compound (1.6 g, 42%) as a colorless liquid. bp 132° C. (18 mm);

reactant | N-(1-buten-1-yl)piperidine | 29.9 mmol, 4.2 g | C(=CCC)N1CCCCC1 | C9H17N
reactant | acrylonitrile | 38.8 mmol, 2.1 g | C(C=C)#N | C3H3N
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-Ethyl-4-oxobutyl cyanide | 1.6 g, 42% | C(C)C(CCC#N)C=O | C7H11NO
